US04678781
A mixture of 2-propyl-4-mercaptoquinazoline (3.3 g.) and sodium hydroxide (0.68 g.) in water (7 ml.) was stirred for 10 minutes at 25°. Methyl iodide (1.1 ml.) was added and stirring was continued for 1 hour. The precipitate was recrystallized from hexane to give 4-methylthio-2-propylquinazoline; n.m.r. in CDCl3 : 1.1(t, 3H); 1.95(m, 2H); 2.7(s, 3H); 3.0(t, 2H); 7.2-8.1(complex, 4H).

reactant | 2-propyl-4-mercaptoquinazoline | 3.3 g | C(CC)C1=NC2=CC=CC=C2C(=N1)S | C11H12N2S
reactant | sodium hydroxide | 0.68 g | [OH-].[Na+]
reactant | Methyl iodide | 1.1 ml | CI | CH3I
solvent | water | 7 ml | O | H2O
product | 4-methylthio-2-propylquinazoline | CSC1=NC(=NC2=CC=CC=C12)CCC | C12H14N2S
